US08748624B2
STEP E: 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 3M aqueous NaOH solution (0.16 mL, 0.49 mmol) was added to a THF (1.0 mL) and MeOH (1.5 mL) solution of ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate (56 mg, 0.08 mmol) and the resulting mixture was stirred at room temperature. After 2 h the resulting mixture was acidified with 1N aqueous HCl and extracted with EtOAc. The combined organics were dried (Na2SO4), concentrated and purified via column chromatography to give the title compound.

reactant | NaOH | 0.49 mmol, 3M, 0.16 mL | [OH-].[Na+]
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.08 mmol, 56 mg | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1OC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C33H28ClF6N3O4
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 1.5 mL | CO | CH4O
product | 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1OC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C31H24ClF6N3O4
